data/nitro/train.csv
rxn,smiles,ea
100,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[N:11]([C:12]([H:13])([H:14])[H:15])[H:16])[Br:17])(\[C:18]([H:19])([H:20])[H:21])[Br:22]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([C:12]([H:13])([H:14])[H:15])[H:16])[Br:17])([C:18]([H:19])([H:20])[H:21])[Br:22],-7.528738814550966
563,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[N:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17])(\[Br:18])[H:19]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17])([Br:18])[H:19],-10.154539658487916
A1,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17])[H:18])([H:19])[H:20]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17])[H:18])([H:19])[H:20],-10.027252499240792
8,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[c:11]1[c:12]([H:13])[c:14]([H:15])[c:16]([H:17])[c:18]([H:19])[c:20]1[H:21])[C:22]([H:23])([H:24])[H:25])([C:26]([H:27])([H:28])[H:29])[C:30]([H:31])([H:32])[H:33]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[c:11]1[c:12]([H:13])[c:14]([H:15])[c:16]([H:17])[c:18]([H:19])[c:20]1[H:21])[C:22]([H:23])([H:24])[H:25])([C:26]([H:27])([H:28])[H:29])[C:30]([H:31])([H:32])[H:33],-5.913103977282195
897,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[C:11]([H:12])([H:13])[H:14])[Br:15])(\[H:16])[Br:17]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[C:11]([H:12])([H:13])[H:14])[Br:15])([H:16])[Br:17],-13.412593947659088
564,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[N:11]([C:12]([H:13])([H:14])[H:15])[H:16])[C:17]([H:18])([H:19])[H:20])(\[Br:21])[H:22]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([C:12]([H:13])([H:14])[H:15])[H:16])[C:17]([H:18])([H:19])[H:20])([Br:21])[H:22],-9.266136845372303
334,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[N:11]([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])[Cl:20])(\[Cl:21])[c:22]1[c:23]([H:24])[c:25]([H:26])[c:27]([H:28])[c:29]([H:30])[c:31]1[H:32]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])[Cl:20])([Cl:21])[c:22]1[c:23]([H:24])[c:25]([H:26])[c:27]([H:28])[c:29]([H:30])[c:31]1[H:32],-0.0464978244531025
736,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[c:11]1[c:12]([H:13])[c:14]([H:15])[c:16]([H:17])[c:18]([H:19])[c:20]1[H:21])[Cl:22])([c:23]1[c:24]([H:25])[c:26]([H:27])[c:28]([H:29])[c:30]([H:31])[c:32]1[H:33])[c:34]1[c:35]([H:36])[c:37]([H:38])[c:39]([H:40])[c:41]([H:42])[c:43]1[H:44]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[c:11]1[c:12]([H:13])[c:14]([H:15])[c:16]([H:17])[c:18]([H:19])[c:20]1[H:21])[Cl:22])([c:23]1[c:24]([H:25])[c:26]([H:27])[c:28]([H:29])[c:30]([H:31])[c:32]1[H:33])[c:34]1[c:35]([H:36])[c:37]([H:38])[c:39]([H:40])[c:41]([H:42])[c:43]1[H:44],-1.856172396468508
818,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[H:11])[Br:12])(\[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[H:11])[Br:12])([H:13])[C:14]([H:15])([H:16])[H:17],-16.50913984884416
987,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[N:11]([H:12])[H:13])[c:14]1[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]([H:22])[c:23]1[H:24])([H:25])[H:26]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([H:12])[H:13])[c:14]1[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]([H:22])[c:23]1[H:24])([H:25])[H:26],-15.368073483778629
263,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[O:11][C:12]([H:13])([H:14])[H:15])[Br:16])([Cl:17])[Cl:18]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[O:11][C:12]([H:13])([H:14])[H:15])[Br:16])([Cl:17])[Cl:18],-6.146021688765701
844,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[N:11]([C:12]([H:13])([H:14])[H:15])[H:16])[C:17]([H:18])([H:19])[H:20])(\[H:21])[Cl:22]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([C:12]([H:13])([H:14])[H:15])[H:16])[C:17]([H:18])([H:19])[H:20])([H:21])[Cl:22],-5.156547179898813
603,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[N:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17])(\[c:18]1[c:19]([H:20])[c:21]([H:22])[c:23]([H:24])[c:25]([H:26])[c:27]1[H:28])[C:29]([H:30])([H:31])[H:32]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17])([c:18]1[c:19]([H:20])[c:21]([H:22])[c:23]([H:24])[c:25]([H:26])[c:27]1[H:28])[C:29]([H:30])([H:31])[H:32],1.2465325099175937
